US04719047
Using the procedure outlined in 11A, except that NaOEt (Aldrich)/EtOH was used instead of NaOCH3 /CH3OH, 10-chloro-9-anthraldehyde (Aldrich) gave 10-ethoxy-9-anthracenecarbaldehyde mp 88°-90°, (CH2Cl2 /hexane) (C,H).

reactant | NaOEt | CC[O-].[Na+]
reactant | EtOH | CCO | C2H6O
reactant | 10-chloro-9-anthraldehyde | ClC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C15H9ClO
solvent | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | 10-ethoxy-9-anthracenecarbaldehyde | C(C)OC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=O | C17H14O2
